US05217978
Using the procedure described in Example 18, 4-[5-(4-(2,4-difluoro-alpha-hydroxybenzyl)phenylthio)thien-2-yl]-4-methoxytetrahydropyran was reacted with pyridinium chlorochromate to give 4-[5-(4-(2,4-difluorobenzoyl)phenylthio)thien-2-yl]-4-methoxytetrahydropyran in 71% yield, as an oil.

reactant | 4-[5-(4-(2,4-difluoro-alpha-hydroxybenzyl)phenylthio)thien-2-yl]-4-methoxytetrahydropyran | FC1=C(C(O)C2=CC=C(C=C2)SC2=CC=C(S2)C2(CCOCC2)OC)C=CC(=C1)F | C23H22F2O3S2
reactant | pyridinium chlorochromate | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
product | 4-[5-(4-(2,4-difluorobenzoyl)phenylthio)thien-2-yl]-4-methoxytetrahydropyran | 71% yield | FC1=C(C(=O)C2=CC=C(C=C2)SC2=CC=C(S2)C2(CCOCC2)OC)C=CC(=C1)F | C23H20F2O3S2
